US07691850B2
Preparation of 4-ethenyl-6-(methyloxy)-3-quinolinecarbonitrile
To a solution of 4-chloro-6-(methyloxy)-3-quinolinecarbonitrile (1.1 g, 5.03 mmol), potassium carbonate (0.76 g, 5.53 mmol), tetrakis-triphenylphosphine (120 mg, 0.10 mmol) in DME (30 mL) and H2O (10 mL) was added 2,4,6-trivinylcycloborane-pyridine complex (1.33 g, 5.53 mmol). After stirring for 5 hours at 85° C. the reaction contents was concentrated and the product purified by chromatography on silica gel (hexanes/EtOAc, 4:1) to give a light brown solid (0.9 g, 86%): LC/MS (ES) m/e 211 (M+H)+.

reactant | 4-chloro-6-(methyloxy)-3-quinolinecarbonitrile | 5.03 mmol, 1.1 g | ClC1=C(C=NC2=CC=C(C=C12)OC)C#N | C11H7ClN2O
reactant | potassium carbonate | 5.53 mmol, 0.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | DME | 30 mL | COCCOC | C4H10O2
solvent | H2O | 10 mL | O | H2O
product | 4-ethenyl-6-(methyloxy)-3-quinolinecarbonitrile | 0.9 g, 86% | C(=C)C1=C(C=NC2=CC=C(C=C12)OC)C#N | C13H10N2O
